US07737136B2
trans-[(7-Chloro-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-1-yl)amino]acetic Acid (Structure 69 of Scheme XVI)
To a solution of ethyl trans-[(7-chloro-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-1-yl)amino]acetate (35 mg, 0.09 mmol) in dioxane (1 mL) was added 4N (aq) NaOH (250 ul). The reaction mixture was stirred at 65° C. for 1.5 h. It was diluted with water (25 mL) whereafter the pH was adjusted to pH 2 with 2N (aq) HCL. The mixture was extracted with ethyl acetate (2×), washed with water and brine, dried (MgSO4) and evaporated. The crude product was purified with LC-MS to afford the title compound (4 mg, 12%). Data (m/z)=372 (M+H)+.

reactant | ethyl trans-[(7-chloro-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-1-yl)amino]acetate | 0.09 mmol, 35 mg | ClC1=CC2=C(N(C3=C([C@H]4N2CCC[C@H]4NCC(=O)OCC)C=CC=C3)C)C=C1 | C22H26ClN3O2
reactant | NaOH | 4N, 250 ul | [OH-].[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | trans-[(7-Chloro-1,2,3,4,10,14b-hexahydro-10-methyldibenzo[b,f]pyrido[1,2-d][1,4]diazepin-1-yl)amino]acetic Acid | 4 mg, 12% | ClC1=CC2=C(N(C3=C([C@H]4N2CCC[C@H]4NCC(=O)O)C=CC=C3)C)C=C1 | C20H22ClN3O2
